US08008279B2
(1R,2R)-N-(1-cyanocyclopropyl)-2-[(6-hydroxy-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl)carbonyl]cyclohexanecarboxamide
The (1R,2R)-2-(6-Benzyloxy-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carbonyl)-cyclohexanecarboxylic acid (1-cyano-cyclopropyl)-amide in ethyl acetate (15 mL) was hydrogenated over 5% palladium on carbon (10 mg). After an apparent uptake of 5 mL (30 min) the reaction was stopped and a sample taken for LCMS. The catalyst was filtered off and a different batch of catalyst and ethanol (5 mL) were added and the hydrogenation continued. Although there was no further uptake apparent after 3 h the reaction was stopped and LCMS indicated that the reduction had proceeded to the required product. Purified by preparative HPLC (0.5% HCOOH, CH3CN/H2O gradient) to give a white powder (34.7 mg, 43%)

reactant | (1R,2R)-2-(6-Benzyloxy-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carbonyl)-cyclohexanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](CCCC1)C(=O)N1CC2=C(NC=3C(=CC=CC23)OCC2=CC=CC=C2)CC1 | C30H32N4O3
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | (1R,2R)-N-(1-cyanocyclopropyl)-2-[(6-hydroxy-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl)carbonyl]cyclohexanecarboxamide | 34.7 mg, 43% | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](CCCC1)C(=O)N1CC2=C(NC=3C(=CC=CC23)O)CC1 | C23H26N4O3
